US06528525B1
2-(4-pyridine-2-ylbenzoylamino)ethanol
Triethylamine (0.14 ml) was added to a suspension of 4-pyridine-2-ylbenzoylchloride hydrochloride (254 mg) in dichloromethane (2 ml). To the mixture a solution of ethanolamine (0.060 ml) in dichloromethane (3 ml) was added. This mixture was stirred for 30 minutes. At the end of this time the reaction mixture was concentrated and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed with aqueous sodium chloride and dried over anhydrous magnesium sulfate and concentrated to afford crystals. The crystals were washed with isopropyl ether to afford the title compound (111 mg).

reactant | Triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | 4-pyridine-2-ylbenzoylchloride hydrochloride | 254 mg | Cl.N1=C(C=CC=C1)C1=CC=C(C(=O)Cl)C=C1
reactant | ethanolamine | 0.060 ml | C(O)CN | C2H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-(4-pyridine-2-ylbenzoylamino)ethanol | 111 mg | N1=C(C=CC=C1)C1=CC=C(C(=O)NCCO)C=C1 | C14H14N2O2
